US07211668B2
N-{2-[5-(2,5-Dichlorophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester
The title compound was synthesized by the reaction of N-{2-[5-(2,5-dichlorophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester with (thymin-1-yl)-acetic acid as per the procedure of example 13. 1H NMR (500 MHz; DMSO-d6) δ 11.27 (s, 0.6H), 11.25 (s, 0.4H), 9.13 (brs, 1H), 8.26 (d, 0.4H), 8.25 (d, 0.6H), 7.81–7.74 (m, 2H), 7.32 (s, 0.6H), 7.23 (s, 0.4H), 4.63 (s, 1.2H), 4.47 (s, 0.8H), 4.32 (s, 0.8H), 4.16 (q, 0.8H), 4.06 (q, 1.2H), 4.04 (s, 1.2H), 3.55 (t, 1.2H), 3.45–3.38 (m, 2H), 3.25 (t, 0.8H), 1.73 (s, 3H), 1.22 (t, 1.2H), 1.16 (t, 1.8H).

reactant | N-{2-[5-(2,5-dichlorophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=CC(=C1)Cl)Cl)=O | C14H16Cl2N4O4S2
reactant | (thymin-1-yl)-acetic acid | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | N-{2-[5-(2,5-Dichlorophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester | C(C)OC(CN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=C(C=CC(=C1)Cl)Cl)=O | C21H22Cl2N6O7S2
